US07132425B2
A solution of 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid (401.6 mg, 0.889 mmol) in methylene chloride (4.4 mL) was cooled to 0° C. The reaction mixture was then treated with oxalyl chloride (310 μL, 3.554 mmol) and N,N-dimethylformamide (2 drops). The reaction mixture was stirred at 0° C. for 45 min and then slowly warmed to 25° C. over 1 h 45 min. The solution was then concentrated in vacuo. The residue was dissolved in methylene chloride (3.4 mL) and cooled to 0° C. The resulting solution was then treated with a mixture of O-(tert-butoxyl)hydroxylamine hydrochloride (133.3 mg, 1.061 mmol) and pyridine (180 μL, 2.226 mmol) in tetrahydrofuran (4.4 mL), followed by a methylene chloride rinse (1 mL). The reaction mixture was stirred at 0° C. for 45 min and then stirred at 25° C. for 2 h 15 min. The reaction was then quenched with water (5 mL) and stirred at 25° C. for 30–45 min. The reaction was partitioned between ethyl acetate (300 mL) and a 1N aqueous citric acid solution (250 mL), and the layers were seperated. The organic layer was washed with a saturated aqueous sodium bicarbonate solution (250 mL), water (250 mL), and a saturated aqueous sodium chloride solution (250 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 2/3 to 1/1 ethyl acetate/hexanes) afforded 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid tert-butoxy-amide (338.8 mg, 73%) as an off-white foam: mp 128–131° C. (foam to gel); (ES)+-HRMS m/e calcd for C24H31ClN4O5S (M+H)+ 523.1777, found 523.1782.

reactant | 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid | 0.889 mmol, 401.6 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC=1N=CC(=NC1)C(=O)O)CC1CCCC1 | C20H22ClN3O5S
reactant | oxalyl chloride | 3.554 mmol, 310 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-(tert-butoxyl)hydroxylamine hydrochloride | 1.061 mmol, 133.3 mg | Cl.O(C(C)(C)C)ON
reactant | pyridine | 2.226 mmol, 180 μL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 4.4 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4.4 mL | O1CCCC1 | C4H8O
product | 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid tert-butoxy-amide | 338.8 mg, 73% | C(C)(C)(C)ONC(=O)C1=NC=C(N=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C24H31ClN4O5S
